US06992087B2
5-(2-chloro-4-methoxyphenyl)-6-cyclopropyl-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-ethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-6-cyclopropyl-3-ethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: MS (ESI+) for C27H30ClN3O2 m/z 465 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-6-cyclopropyl-3-ethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C25H26ClN3O2
product | 5-(2-chloro-4-methoxyphenyl)-6-cyclopropyl-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-ethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C27H30ClN3O2
